US08735385B2
{2-Fluoro-4-[4-((S)-2-methyl-pyrrolidin-1-yl)-cyclohex-1-enyl]-phenyl}-carbamic acid benzyl ester
Methanesulfonic acid 4-(4-benzyloxycarbonylamino-3-fluoro-phenyl)-cyclohex-3-enyl ester (200 mg, 0.47 mmol, 1 equiv.) was dissolved in 5 mL of anhydrous acetonitrile. This solution was transferred into a flask containing (S)-2-methyl-pyrrolidine (159 mg, 1.88 mmol, 4 equiv.) and K2CO3 (285 mg, 2.07 mmol, 4.4 equiv.). The suspension was de-aerated by vacuum/nitrogen exchange 3 times, and then, heated on an oil bath set at 80° C. externally with stirring under nitrogen for 16 h. TLC (5% MeOH in DCM for SM) showed the reaction is complete. Acetonitrile was removed in vacuo. The residue was taken in water (5 mL) and DCM (10 mL). The two layers were separated and the aqueous layer was extracted with DCM (2×10 mL). The combined extracts were washed with NaHCO3 aq. (5 mL), brine (5 mL) and dried (K2CO3). The solution was filtered. The filtrate was concentrated in vacuo to obtain a crude product. The crude product was purified on a silica gel column, eluted with DCM, followed by 5% MeOH in DCM and 5% of 7N NH3-MeOH in DCM. The combined fractions containing the product were concentrated to yield the title compound.

reactant | Methanesulfonic acid 4-(4-benzyloxycarbonylamino-3-fluoro-phenyl)-cyclohex-3-enyl ester | 0.47 mmol, 200 mg, 1 equiv. | C(C1=CC=CC=C1)OC(=O)NC1=C(C=C(C=C1)C1=CCC(CC1)OS(=O)(=O)C)F | C21H22FNO5S
reactant | (S)-2-methyl-pyrrolidine | 1.88 mmol, 159 mg, 4 equiv. | C[C@@H]1NCCC1 | C5H11N
reactant | K2CO3 | 2.07 mmol, 285 mg, 4.4 equiv. | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | CO | CH4O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | {2-Fluoro-4-[4-((S)-2-methyl-pyrrolidin-1-yl)-cyclohex-1-enyl]-phenyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1)C1=CCC(CC1)N1[C@H](CCC1)C)F)=O | C25H29FN2O2
